US04460508
A solution of 32.4 g of phenyl chloroformate in 100 ml of acetonitrile was added dropwise under nitrogen while stirring to a mixture of 34.6 g of 2-(2-aminobenzyl)imidazole and 71 g of triethylamine in 600 ml of acetonitrile at room temperature. After addition was complete, the reaction mixture was heated under reflux for 12 hours, and allowed to cool to room temperature. Water (150 ml) was added, the mixture was stirred at room temperature for 0.5 hour and cooled to 5°. The resulting precipitate was filtered off, washed first twice with 50 ml of water, then 3 times with 33 ml of cold acetone and dried to give 11H-imidazo[1,2-c][1,3]benzodiazepin-5-(6H)-one, m.p. 255°-7°.

reactant | phenyl chloroformate | 32.4 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 2-(2-aminobenzyl)imidazole | 34.6 g | NC1=C(CC=2NC=CN2)C=CC=C1 | C10H11N3
reactant | triethylamine | 71 g | C(C)N(CC)CC | C6H15N
reactant | Water | 150 ml | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | 11H-imidazo[1,2-c][1,3]benzodiazepin-5-(6H)-one | N=1C=CN2C(NC3=C(CC21)C=CC=C3)=O | C11H9N3O
